### PR TITLE
chore(Combinatorics): remove a `set_option backward.privateInPublic`

### PR DESCRIPTION
**Pull request by felixpernegger**
Together with #41410 this removes all but one global `set_option backward.privateInPublic true`

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/Matroid/Basic.lean
Comment (felixpernegger) [inline Mathlib/Combinatorics/Matroid/Basic.lean:536]:
```suggestion
  simp_rw [indep_iff, lowerClosure, LowerSet.coe_mk, mem_setOf, le_eq_subset]
```

File: Mathlib/Combinatorics/Matroid/Dual.lean
Comment (felixpernegger) [inline Mathlib/Combinatorics/Matroid/Dual.lean:233]:
```suggestion
  simp_rw [Coindep, dual_indep_iff_exists', and_comm (a := _ ⊆ _), and_congr_left_iff, subset_sdiff]
```

File: Mathlib/Combinatorics/Matroid/Dual.lean [hunk 1]
```diff
@@ -230,7 +230,7 @@ theorem Indep.coindep (hI : M.Indep I) : M✶.Coindep I :=
 
 theorem coindep_iff_exists' : M.Coindep X ↔ (∃ B, M.IsBase B ∧ B ⊆ M.E \ X) ∧ X ⊆ M.E := by
   simp_rw [Coindep, dual_indep_iff_exists', and_comm (a := (_ : Set α) ⊆ _), and_congr_left_iff,
```
Comment (felixpernegger) [inline Mathlib/Combinatorics/Matroid/Dual.lean:232]:
```suggestion
```

**Comment by felixpernegger** [comment]
easy

**Comment by felixpernegger** [comment]
!bench

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/mathlib4/commits/f9c2271479c82abec08d37244cfe8100da827b93?reference=12b4b4adf73c3bf0917409bb4b9dd4c8b96f4e8f) for f9c2271479c82abec08d37244cfe8100da827b93 against 12b4b4adf73c3bf0917409bb4b9dd4c8b96f4e8f are in. No significant results found. @felixpernegger

- ✅ `build//instructions`: **-31.5G** (**-0.02%**)

No significant changes detected.

File: Mathlib/Combinatorics/Matroid/Basic.lean [hunk 2]
```diff
@@ -345,10 +343,12 @@ private theorem inter_right_subset_ground (hX : X ⊆ M.E) :
 private theorem inter_left_subset_ground (hX : X ⊆ M.E) :
     Y ∩ X ⊆ M.E := inter_subset_right.trans hX
 
+set_option backward.privateInPublic true
```
Comment (vlad902) [inline Mathlib/Combinatorics/Matroid/Basic.lean]:
```suggestion
set_option backward.privateInPublic true in
```

Comment (felixpernegger) [reply Mathlib/Combinatorics/Matroid/Basic.lean]: oops thanks, that would have defeated the entire point. :)

**Comment by felixpernegger** [comment]
-easy

**Comment by felixpernegger** [comment]
This PR now requires filling out some fields that aseop could prove automatically before. If this is a problem, i can look into it.
